US07256297B2
Preparation of (R)-t-Butyl isobutyl sulfoxide:
Preparation of (S)-picolinyl t-butylsulfoxide from (S)-tert-Butyl (1R, 2S)-aminoindanol 4-toluene sulfonamide sulfinate: To a picolinyl lithium solution (2 mL, 0.6 M) in THF at −78° C. was added (S)-t-butyl-(1R, 2S)-aminoindanol tosylate sulfinate (130 mg, 0.30 mmol). The mixture was warmed to room temperature and stirred until the starting material was consumed as monitored by TLC. The reaction was quenched by aq. NaHCO3 (20 mL) and diluted with ethyl acetate (20 mL), and the organic phase was washed with water (20 mL) and brine (20 mL). The organic layer was concentrated in vacuo and the residue was purified by chromatography eluted with ethyl acetate to yield 32 mg of the desired product.

reactant | (S)-picolinyl t-butylsulfoxide | N1=C(C=CC=C1)C[S@](=O)C(C)(C)C | C10H15NOS
reactant | picolinyl lithium | 0.6 M, 2 mL | N1=C(C=CC=C1)C[Li]
solvent | THF | C1CCOC1 | C4H8O
product | (R)-t-Butyl isobutyl sulfoxide | 32 mg | C(C(C)C)[S@@](=O)C(C)(C)C | C8H18OS
